US09334263B2
Synthesis of 3-(4-(pyrrolidin-1-yldiazenyl)phenyl)oxetan-3-ol
To a solution of 1-((4-bromophenyl)diazenyl)pyrrolidine (500 mg, 1.97 mmol) in anhydrous THF (20 mL) was added n-BuLi (1.8 mL, 4.33 mmol) dropwise at −78° C. under N2. The solution was stirred at −78° C. for 1 h, followed by the addition of oxetan-3-one (326 mg, 4.53 mmol). The resultant mixture was stirred at RT for 18 h. The reaction was quenched by saturated aqueous NH4Cl aq. (20 mL) and extracted with ethyl acetate (20 mL*3). The combined organic layers were concentrated under reduced pressure to give a residue, which was purified by silica gel chromatography (DCM:MeOH=20:1) to afford the title compound (500 mg, yield 97%) as a light yellow solid. MS (ES+) C13H17N3O2 requires: 247, found 248 [M+H]+, purity: 90%.

reactant | 1-((4-bromophenyl)diazenyl)pyrrolidine | 1.97 mmol, 500 mg | BrC1=CC=C(C=C1)N=NN1CCCC1 | C10H12BrN3
reactant | n-BuLi | 4.33 mmol, 1.8 mL | [Li]CCCC
reactant | oxetan-3-one | 4.53 mmol, 326 mg | O1CC(C1)=O | C3H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-(pyrrolidin-1-yldiazenyl)phenyl)oxetan-3-ol | 500 mg, yield 97% | N1(CCCC1)N=NC1=CC=C(C=C1)C1(COC1)O | C13H17N3O2
